US07495251B2
Synthesis of 2,6-dibromo-9,10-bis[(triisopropylsilyl)-ethynyl]anthracene
Triisopropylsilylacetylene (12.32 g, 67.5 mmol) and dry hexane (140 mL) were added under a dry nitrogen blanket to an oven-dried round bottom flask (1 L). Butyl lithium (2.7 M in hexane, 14.5 mL, 39.2 mmol) was added dropwise under dry nitrogen through a syringe to the mixture. The mixture was stirred at room temperature for 2 hours. To this colorless solution, dry THF (300 mL) and 2,6-dibromoanthraquinone (5.49 g, 15.0 mmol) were added under dry nitrogen. The solution turned red immediately and the 2,6-dibromoanthraquininone dissolved in minutes. The mixture was stirred at room temperature overnight and the solution became dark red. Deionized (DI) water (6.0 mL) was added, the color changed to light red, and a white precipitate appeared. Tin (II) chloride (8.088 g, 42.6 mmol) in HCl (18 mL, 10%) aqueous solution was then added. The mixture was heated to 60° C. for 2 hours and then cooled to room temperature. The solvent was removed by rotary evaporation. DI water (100 mL) was added to the mixture which was then extracted with hexane (100 mL×3). The hexane solution was washed with DI water until neutral. It was concentrated and purified through a column chromatography (silica gel/hexane, Rf=0.7). A bright yellow solid (8.55 g, yield: 82%) was obtained as the product. 1H NMR (400 MHz, CDCl3). δ ppm 8.797-8.802 (d, 2H, J=2.0 Hz), 8.431-8.454 (d, 2H, J=8.8 Hz), 7.647-7.674 (dd, 2H, J=8.8 Hz, J=2.0 Hz), 1.259 (s, 36H), 1.247 (s, 6H).

reactant | Triisopropylsilylacetylene | 67.5 mmol, 12.32 g | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | Butyl lithium | 39.2 mmol, 2.7 M, 14.5 mL | C(CCC)[Li]
reactant | 2,6-dibromoanthraquinone | 15.0 mmol, 5.49 g | BrC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)Br)=O | C14H6Br2O2
reactant | Tin (II) chloride | 42.6 mmol, 8.088 g | [Sn](Cl)Cl
solvent | HCl | 18 mL | Cl | ClH
solvent | water | 6.0 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | 140 mL | CCCCCC | C6H14
product | 2,6-dibromo-9,10-bis[(triisopropylsilyl)-ethynyl]anthracene | 8.55 g, yield: 82% | BrC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)Br)C#C[Si](C(C)C)(C(C)C)C(C)C | C36H48Br2Si2
